US07612075B2
1-(4-Amino-quinazolin-7-ylmethyl)-4-[(5-chloro-thiophen-2-yloxy)-acetyl]-3-(S)-methyoxymethyl-piperazin-2-one
To a solution of 4-(4-amino-quinazoline-7-ylmethyl)-2-methoxymethyl-3-oxo-piperazine-1-carboxylic acid benzyl ester, EXAMPLE 75, (0.69 g, 2.29 mmol) in 9 mL of DMF is added N,N-diisopropylethyl amine (0.89 g, 6.87 mmol), TBTU (0.76 g, 2.36 mmol), and 5-chloro-2-thienyloxyacetic acid, EXAMPLE 24, (0.40 g, 2.08 mmol). The solution is stirred for 16 hours. After this time the solution is concentrated. The crude material is purified by RP-HPLC eluting with a gradient of 10% CH3CN/H2O (0.1% TFA) to 80% CH3CN/H2O (0.1% TFA). The product fractions are lyophilized to give product as a white solid (1.0 g, 1.57 mmol). 1H NMR (d6-DMSO, 300 MHz) δ9.70 (bs, 2H), 8.78 (s, 1H), 8.29 (m, 1H), 7.55 (m, 2H), 6.72 (m, 1H), 6.22 (m, 1H), 4.80 (m, 4H), 3.78 (m, 4H), 3.59 (m, 3H), 3.31 and 3.2 (s, 3H rotational isomers).MS (ion spray) M+H=476. Elemental Analysis: C21H22ClN5O4S.1.4CF3CO2H cal: C=45.03%, H=3.68%, N=11.04%; found C=44.98%, H=3.71%, N=11.02%.

reactant | 4-(4-amino-quinazoline-7-ylmethyl)-2-methoxymethyl-3-oxo-piperazine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1C(C(N(CC1)CC1=CC=C2C(=NC=NC2=C1)N)=O)COC | C23H25N5O4
reactant | N,N-diisopropylethyl amine | 6.87 mmol, 0.89 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | TBTU | 2.36 mmol, 0.76 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 5-chloro-2-thienyloxyacetic acid | ClC1=CC=C(S1)OCC(=O)O | C6H5ClO3S
solvent | DMF | 9 mL | CN(C)C=O | C3H7NO
product | 1-(4-Amino-quinazolin-7-ylmethyl)-4-[(5-chloro-thiophen-2-yloxy)-acetyl]-3-(S)-methyoxymethyl-piperazin-2-one | 1.57 mmol, 1.0 g | NC1=NC=NC2=CC(=CC=C12)CN1C([C@@H](N(CC1)C(COC=1SC(=CC1)Cl)=O)COC)=O | C21H22ClN5O4S
